US08076454B2
3-Ethyl-2-methyl-benzoic acid (0.517 g) was refluxed in 3 mL of thionyl chloride with a drop of DMF for several hours. Thionyl chloride was removed in vacuo to yield 0.89 g (4.48 mmol) of 3-ethyl-2-methyl-benzoyl chloride. The acid chloride was dissolved in 5 mL of CH2Cl2 and added slowly and simultaneously but separately with 5 mL of aqueous NaOH (0.30 g, 7.5 mmol) to a solution of 3,5-dimethyl-benzoic acid N-tert-butyl-hydrazide (0.96 g, 4.36 mmol) dissolved in 10 mL of CH2Cl2 prechilled to −5° C. During the addition, the temperature was kept below 5° C. The mixture was allowed to warm slowly to room temperature and was stirred overnight. The organic layer was removed and the aqueous layer was extracted with CH2Cl2. The organic extracts were combined, dried, and solvent was removed in vacuo to give 1.5 g crude product. This residue was extracted with 100 mL of hexanes under reflux, and the hot extract was decanted from an oily residue and allowed to cool to room temperature, whereupon 3,5-dimethyl-benzoic acid N-tert-butyl-N′-(3-ethyl-2-methyl-benzoyl)-hydrazide crystallized (0.56 g, m.p. 167-169° C., 1H NMR (CDCl3, 200 MHz), δ (ppm): 7.43 (s, 1H), 7.18 (m, 1H), 7.1 (s, 2H), 7.03 (s, 1H), 7.0 (m, 1H), 6.35 (d, 1H), 2.58 (q, 2H), 2.3 (s, 6H), 1.95 (s, 3H), 1.6 (s, 9H), 1.15 (t, 3H). Dissolution of the oily residue and crystallization yielded a second crop of less pure material, 0.21 g.

reactant | 3-Ethyl-2-methyl-benzoic acid | 0.517 g | C(C)C=1C(=C(C(=O)O)C=CC1)C | C10H12O2
reactant | DMF | CN(C)C=O | C3H7NO
reactant | thionyl chloride | 3 mL | S(=O)(Cl)Cl | Cl2OS
product | 3-ethyl-2-methyl-benzoyl chloride | 4.48 mmol, 0.89 g | C(C)C=1C(=C(C(=O)Cl)C=CC1)C | C10H11ClO
